US03931168
C. 3-Chloro-4-fluorocinnamic acid
A stirred mixture of 3-chloro-4-fluorobenzaldehyde (55 g, 0.35 mole), malonic acid (47 g, 0.45 mole) and 3.5 ml of piperidine in 138 ml of pyridine was heated on a steam bath for 2 hours. The reaction solution was poured into a mixture of 200 ml of concentrated hydrochloric acid and 320 g of ice to give after filtration and water wash 44 g (63%). The crude intermediate was used without further purification in part D.

reactant | 3-chloro-4-fluorobenzaldehyde | 0.35 mole, 55 g | ClC=1C=C(C=O)C=CC1F | C7H4ClFO
reactant | malonic acid | 0.45 mole, 47 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 3.5 ml | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | 200 ml | Cl | ClH
solvent | pyridine | 138 ml | N1=CC=CC=C1 | C5H5N
product | 3-Chloro-4-fluorocinnamic acid | ClC=1C=C(C=CC(=O)O)C=CC1F | C9H6ClFO2
